US07074819B2
To a solution of 2-hydroxy-4-methoxy-2-(4-pyridyl)acetophenone (3.51 g, 14.4 mmol) in tetrahydrofuran (30 ml) were added under ice-cooling dry acetate (2.72 ml, 28.8 mmol) and a solution of N,N,N′,N′-tetramethyl-diaminomethane (1.96 ml, 14.4 mmol) in DMF (10 ml), which was then stirred for 30 minutes. After the reaction was completed, the reaction solution was neutralized under ice-cooling using saturated aqueous NaHCO3 solution, extracted with ethyl acetate, and washed with saturated saline solution. The organic layer was dried over magnesium sulfate, and the solvent was removed under reduced pressure. The residue was dissolved in tetrahydrofuran (20 mg), tetta-n-butylammonium fluoride (11.0 mmol/g, 0.144 mg, 0.144 mmol) was added thereto under ice-cooling, and the resulting mixture was stirred at room temperature for 1 hour. After the reaction was completed, saturated aqueous NH4Cl solution was added to the reaction solution, which was then extracted with ethyl acetate and washed with saturated saline solution. The organic layer was dried over magnesium sulfate, and the solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography (n-hexane:ethyl acetate=1:2) to give 7-methoxy-3-(4-pyridyl)chroman-4-one (2.02 g, yield 55%).

reactant | 2-hydroxy-4-methoxy-2-(4-pyridyl)acetophenone | 14.4 mmol, 3.51 g | OC(C(=O)C1=CC=CC=C1)C1(CC=NC=C1)OC | C14H15NO3
reactant | acetate | 28.8 mmol, 2.72 ml | C(C)(=O)[O-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-methoxy-3-(4-pyridyl)chroman-4-one | 2.02 g, yield 55% | COC1=CC=C2C(C(COC2=C1)C1=CC=NC=C1)=O | C15H13NO3
